US05591735
Preparation of 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol
After adding 63 g of 1,4-dioxa-8-azaspiro[4.5]decane and 13 ml of water to 17 g of 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstane-17β-ol, the reaction mixture is maintained at 100° to 105° C. for 80 hours while introducing nitrogen. After completion of the reaction, the solution containing a precipitate is diluted with 200 ml of acetonitrile and after filtering, the precipitate is thoroughly washed with water and then with acetonitrile, dried and recrystallized from methanol to give the title product in a yield of 18.2 g (76.5%), m.p.: 184°-187° C.

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 63 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | water | 13 ml | O | H2O
reactant | 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstane-17β-ol | 17 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2 | C23H37NO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol | O1CCOC12CCN(CC2)[C@@H]2[C@H](C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2)O | C30H50N2O4
